US05332757
Using an analogous procedure to that described in Example 15, 4'-[5-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone was reacted with hydroxylamine hydrochloride to give (E)-4'-[5-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone oxime in 80% yield, m.p. 114°-116° C.;

reactant | 4'-[5-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone | COC1(CCOCC1)C1=CN=C(S1)SC1=CC=C(C=C1)C(C)=O | C17H19NO3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | (E)-4'-[5-(4-methoxytetrahydropyran-4-yl)thiazol-2-ylthio]acetophenone oxime | 80% yield | COC1(CCOCC1)C1=CN=C(S1)SC1=CC=C(C=C1)/C(/C)=N/O | C17H20N2O3S2
